US04687775
A solution of 20 g (0.13 mole) of 2-methyl-6-nitroaniline in 22.9 ml of concentrated aqueous hydrochloric acid, 200 ml of tetrahydrofuran, and 350 ml of methanol was hydrogenated at room temperature using 25 p.s.i. of hydrogen gas over 2.0 g of 5% palladium on carbon. The mixture was filtered and the filtrate was concentrated in vacuo. The residue was dissolved in 150 ml of ethanol and neutralized with 17.2 g (0.26 mole) of potassium hydroxide dissolved in 30 ml of water. Potassium ethylxanthate (23 g, 0.155 mole) was added and the mixture was heated at reflux for 18 hours. Upon cooling, a solid was collected, washed with water, and air dried to yield 6.2 g of 2-mercapto-4-methylbenzimidazole, as confirmed by the nmr and infrared spectra. The title compound (987 mg) was prepared by the method of Example 6 using 8-hydroxymethylimidazo[1,2-a]pyridine as the hydrochloride salt (700 mg, 3.8 mmole) and using 655 mg (4.0 mmole) of 2-mercapto-4-methylbenzimidazole instead of 2-mercapto-5-methoxybenzimidazole. Structure assignment was supported by the nmr and infrared spectra.

reactant | 2-methyl-6-nitroaniline | 0.13 mole, 20 g | CC1=C(N)C(=CC=C1)[N+](=O)[O-] | C7H8N2O2
reactant | hydrogen | [H][H] | H2
reactant | potassium hydroxide | 0.26 mole, 17.2 g | [OH-].[K+]
reactant | Potassium ethylxanthate | 0.155 mole, 23 g | C(C)OC(=S)[S-].[K+]
solvent | hydrochloric acid | 22.9 ml | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 2.0 g | [Pd] | Pd
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
solvent | methanol | 350 ml | CO | CH4O
product | 2-mercapto-4-methylbenzimidazole | 6.2 g | SC=1NC2=C(N1)C=CC=C2C | C8H8N2S
